US07141583B2
(5R)-3-(4-(1-(2-Acetoxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
A solution of (5R)-3-(4-(1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride (650 mg, 1.64 mM) in acetone (20 ml) and water (10 ml), was treated with sodium bicarbonate (1.38 g, 16.4 mM) and the mixture cooled to 0–4°. Acetoxyacetyl chloride (448 mg, 3.28 mM) was added dropwise and the reaction mixture stirred at 0–4° for 20 minutes before allowing to warm to ambient temperature. After dilution with water the mixture was extracted well with ethyl acetate. The organic phase was separated, dried (sodium sulfate), solvent evaporated, and the residue triturated with diethyl ether to give the desired product (702 mg).

reactant | (5R)-3-(4-(1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one hydrochloride | 1.64 mM, 650 mg | Cl.N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | sodium bicarbonate | 16.4 mM, 1.38 g | C([O-])(O)=O.[Na+]
reactant | Acetoxyacetyl chloride | 3.28 mM, 448 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | (5R)-3-(4-(1-(2-Acetoxyacetyl)-1,2,5,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 702 mg | C(C)(=O)OCC(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C21H21F2N5O5
